US20010011085A1
(6R,7S)-4-Bromo-7-methoxy-3-methyl-5,5,8-trioxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic Acid Tert-Butyl Ester.
Starting from a solution of (6R,7S)-7-methoxy-3-methyl-5,5,8-trioxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid tert-butyl ester (350 mg), triethylamine (0.15 ml) and N-bromosuccinimide (180 mg) in acetonitrile (20 ml) and following the procedure described in Example 1, the title compound was obtained pure as a light yellow foam (280 mg).

reactant | (6R,7S)-7-methoxy-3-methyl-5,5,8-trioxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid tert-butyl ester | 350 mg | C(C)(C)(C)OC(=O)C=1N2C([C@@H]([C@H]2S(CC1C)(=O)=O)OC)=O | C13H19NO6S
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | N-bromosuccinimide | 180 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (6R,7S)-4-Bromo-7-methoxy-3-methyl-5,5,8-trioxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)C=1N2C([C@@H]([C@H]2S(C(C1C)Br)(=O)=O)OC)=O | C13H18BrNO6S
